US09169215B2
To a mixture of 5-amino-1H-pyrazole-4-carbonitrile (491 mg, 4.54 mmol) and 2,4-dimethoxybenzaldehyde (754 mg, 4.54 mmol) in a vial under nitrogen atmosphere were added methanol (20 mL) followed by cyclohexyl isonitrile (500 mg, 581 μL, 4.54 mmol) and perchloric acid (91.2 mg, 81.4 μL, 0.908 mmol) at RT. Then, the resulting brown solution was stirred for 15 h by which time lots of solid was formed. These solids were collected by filtration and washed with methanol. After air drying, 495 mg (30% yield) of 3-(cyclohexylamino)-2-(2,4-dimethoxyphenyl)-1H-imidazo[1,2-b]pyrazole-7-carbonitrile was isolated as a white solid. LC/MS calcd. for C20H23N5O2 (m/e) 365.43, obsd. 366.0 (M+H, ES+).

reactant | 5-amino-1H-pyrazole-4-carbonitrile | 4.54 mmol, 491 mg | NC1=C(C=NN1)C#N | C4H4N4
reactant | 2,4-dimethoxybenzaldehyde | 4.54 mmol, 754 mg | COC1=C(C=O)C=CC(=C1)OC | C9H10O3
reactant | cyclohexyl isonitrile | 4.54 mmol, 581 μL, 500 mg | C1(CCCCC1)[N+]#[C-] | C7H11N
reactant | perchloric acid | 0.908 mmol, 81.4 μL, 91.2 mg | Cl(=O)(=O)(=O)O | ClHO4
solvent | methanol | 20 mL | CO | CH4O
product | 3-(cyclohexylamino)-2-(2,4-dimethoxyphenyl)-1H-imidazo[1,2-b]pyrazole-7-carbonitrile | 495 mg, 30% yield | C1(CCCCC1)NC1=C(NC=2N1N=CC2C#N)C2=C(C=C(C=C2)OC)OC | C20H23N5O2
